US07160887B1
10% carbon-palladium (4 g) was added to an ethanol solution of tert-butyl[4-(2-nitrophenylamino)benzyl]carbamate (36 g, 105 mmols). The resulting mixture was hydrogenated at room temperature under atmospheric pressure for 4 hours. The catalyst was removed through filtration, and the filtrate was concentrated under reduced pressure. The residual solid was recrystallized from hexane/ethyl acetate to give a crystal of tert-butyl[4-(2-aminophenylamino)benzyl]carbamate (29.5 g, 89.9%).

reactant | tert-butyl[4-(2-nitrophenylamino)benzyl]carbamate | 105 mmols, 36 g | C(C)(C)(C)OC(NCC1=CC=C(C=C1)NC1=C(C=CC=C1)[N+](=O)[O-])=O | C18H21N3O4
catalyst | carbon palladium | 4 g | [C].[Pd]
solvent | ethanol | C(C)O | C2H6O
product | tert-butyl[4-(2-aminophenylamino)benzyl]carbamate | 29.5 g, 89.9% | C(C)(C)(C)OC(NCC1=CC=C(C=C1)NC1=C(C=CC=C1)N)=O | C18H23N3O2
